US07241798B2
Mixture of enantiomers, one being [(1S,2S)-2-Phenyl-3-(2,2,2-trifluoro-acetyl)-3-aza-bicyclo[3.1.0]hex-1-yl]-carbamic acid tert-butyl ester
To racemic Intermediate 48, one enantiomer being ((1S,2S)-2-phenyl-3-aza-bicyclo[3.1.0]hex-1-yl)-carbamic acid tert-butyl ester (3.2 g, 11.5 mmol) dissolved in methylene chloride (39 mL) was added triethylamine (2.4 mL, 17.2 mmol). The solution was cooled to 0° C. and trifluoroacetic anhydride (1.8 mL, 12.6 mmol) was added. The reaction was stirred at 0° C. for 20 minutes then allowed to warm to room temperature and stir for 3 hours. Saturated sodium bicarbonate solution was added, the phases were separated, the organics washed with brine, dried over sodium sulfate, filtered, and concentrated to give the title compound as a foam (4.4 g, quantitative yield).

reactant | ((1S,2S)-2-phenyl-3-aza-bicyclo[3.1.0]hex-1-yl)-carbamic acid tert-butyl ester | 11.5 mmol, 3.2 g | C(C)(C)(C)OC(N[C@@]12[C@@H](NCC2C1)C1=CC=CC=C1)=O | C16H22N2O2
reactant | triethylamine | 17.2 mmol, 2.4 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 12.6 mmol, 1.8 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 39 mL | C(Cl)Cl | CH2Cl2
product | [(1S,2S)-2-Phenyl-3-(2,2,2-trifluoro-acetyl)-3-aza-bicyclo[3.1.0]hex-1-yl]-carbamic acid tert-butyl ester | 4.4 g, quantitative yield | C(C)(C)(C)OC(N[C@@]12[C@@H](N(CC2C1)C(C(F)(F)F)=O)C1=CC=CC=C1)=O | C18H21F3N2O3
